US09193716B2
Step A: 4-Bromo-N-(6,6-dimethylbicyclo[3.1.1]heptan-2-yl)benzene sulfonamide
To a stirred solution of 4-bromo-benzenesulphonyl chloride (0.6 g, 2.34 mmol) in anhydrous CH2Cl2 (5 ml) and Et3N (0.65 ml, excess) at 0° C. was added (−) cis-myrtanylamine (0.36 g, 2.34 mmol) and the stirring was continued overnight at room temperature. The reaction mixture was diluted with CH2Cl2 (15 ml) and washed with H2O (2×100 ml). The organic layer was separated and dried over MgSO4 and the solvent was distilled to afford the title compound (0.87 g, 100%), as pale paste, which was solidified on standing. 1H-NMR (CDCl3) 7.70 (d, 2H, J=6.78 Hz); 6.64 (d, 2H, J=6.90 Hz); 2.91 (t, 2H, J=7.59 Hz); 2.32-2.29 (m, 1H); 2.11-2.06 (m, 1H); 1.91-1.81 (m, 6H); 1.39-1.31 (m, 1H); 1.11 (s, 3H); 0.86 (s, 3H).

reactant | 4-bromo-benzenesulphonyl chloride | 2.34 mmol, 0.6 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | (−) cis-myrtanylamine | 2.34 mmol, 0.36 g | CC1([C@H]2CC[C@H]([C@@H]1C2)CN)C | C10H19N
reactant | Et3N | 0.65 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-(6,6-dimethylbicyclo[3.1.1]heptan-2-yl)benzene sulfonamide | 0.87 g, 100% | BrC1=CC=C(C=C1)S(=O)(=O)NC1C2C(C(CC1)C2)(C)C | C15H20BrNO2S
